US05308857
An ice-cooling mixture of 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole (0.8 g), 3-chlorobenzoisothiazol-1,1-dioxide (0.8 g) and triethylamine (0.5 ml) in N,N-dimethylformamide (15 ml) was stirred for 3 hours. To a reaction mixture was added a mixture of ethylacetate, tetrahydrofuran and water and the mixture was adjusted to pH 9.5 with 20% aqueous potassium carbonate. The separated organic layer was washed with brine and dried over magnesium sulfate. The solvent was removed by concentration and a residue was recrystallized from a mixture of methanol, dioxane and diisopropyl ether to give 2-(diaminomethyleneamino)-4-[5-(1,1-dioxobenzoisothiazol-3-yl)aminomethylfuran-2-yl]thiazole (0.49 g).

reactant | 4-(5-aminomethylfuran-2-yl)-2-(diaminomethyleneamino)thiazole | 0.8 g | NCC1=CC=C(O1)C=1N=C(SC1)N=C(N)N | C9H11N5OS
reactant | 3-chlorobenzoisothiazol-1,1-dioxide | 0.8 g | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | triethylamine | 0.5 ml | C(C)N(CC)CC | C6H15N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethylacetate | C(C)OC(C)=O | C4H8O2
product | 2-(diaminomethyleneamino)-4-[5-(1,1-dioxobenzoisothiazol-3-yl)aminomethylfuran-2-yl]thiazole | 0.49 g | NC(N)=NC=1SC=C(N1)C=1OC(=CC1)CNC1=NS(C2=C1C=CC=C2)(=O)=O | C16H14N6O3S2
